Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI Per Colorectal Surgery Consult Note:

HPI: ___ s/p screening colonoscopy ___ w cecal polypectomy now 
w
fever, abdominal pain, nausea and vomiting. Patient underwent
uneventful c-scope ___ w polypectomy as above. Returned home 
and
yesterday ___ noted chills w fever to 102. This was associated w
diffuse abdominal pain (R>L). Pain described as ___ severity.
Passing flatus throughout. On oral intake had nausea and several
episodes of vomiting. Presented to ED for evaluation. Noted to
have fever tp 101.5 w tachycardia to 120s on presentation. Also 
w
leukocytosis. Received, zosyn, IVF and CT scan. Surgery consult
obtained. 

Patient reports mild improvement in pain to ___, worse w
movement. NPO. No chills or fever since arrival. Passing flatus 
w
no BM. Denies chest pain, shortness of breath, dysuria, or other
concerning symptoms. 

 
Past Medical History:
PMH: HTN, HLD  
PSH: inguinal hernia (___) 

 
Social History:
___
 
Physical Exam:
General: Patient doing well, tolerating a regular diet, 
abdominal pain resolved
VSS
Neuro: A&OX3
Cardio/pulm: no chest pain, no shortness of breath
Abd: abdominal pain much improved, abdomen soft, non distended

 
Pertinent Results:
___ 05:50AM BLOOD WBC-5.3 RBC-4.23* Hgb-12.9* Hct-38.7* 
MCV-92 MCH-30.5 MCHC-33.3 RDW-12.5 RDWSD-41.7 Plt ___
___ 08:57AM BLOOD WBC-7.2 RBC-4.38* Hgb-13.5* Hct-40.6 
MCV-93 MCH-30.8 MCHC-33.3 RDW-12.9 RDWSD-43.8 Plt ___
___ 09:30PM BLOOD WBC-10.7*# RBC-5.41 Hgb-16.5 Hct-49.4 
MCV-91 MCH-30.5 MCHC-33.4 RDW-12.7 RDWSD-42.5 Plt ___
___ 08:57AM BLOOD Neuts-76.5* Lymphs-14.6* Monos-8.1 
Eos-0.3* Baso-0.1 Im ___ AbsNeut-5.48 AbsLymp-1.05* 
AbsMono-0.58 AbsEos-0.02* AbsBaso-0.01
___ 09:30PM BLOOD Neuts-90.1* Lymphs-4.3* Monos-5.0 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-9.62* AbsLymp-0.46* 
AbsMono-0.53 AbsEos-0.00* AbsBaso-0.01
___ 09:30PM BLOOD Glucose-109* UreaN-19 Creat-1.0 Na-142 
K-3.4 Cl-103 HCO3-24 AnGap-18
___ 09:30PM BLOOD ALT-21 AST-24 AlkPhos-72 TotBili-0.9
___ 09:30PM BLOOD Albumin-4.7
___ 09:41PM BLOOD Lactate-1.2
 
Brief Hospital Course:
Mr. ___ was admitted to the inpatient colorectal surgery 
service with thickening of the right side of his colon after 
colonoscopy/polypectomy. CT scan in the emergency was 
significant for Mild wall thickening of the cecum corresponding 
to the area of polypectomy with minimal thickening of the fascia 
consistent with post 
colonoscopy changes and small amount of free fluid in the 
pelvis. He continued on ciprofloxacin and flagyl and was given 
intravenous fluids. He was NPO. We monitored the patient's 
abdominal exam closely and laboratory values and he remained 
stable. On hospital day one, we transitioned to antibioitcs by 
mouth and he tolerated clear liquids. In the afternoon he began 
a regular diet. The following day his abdominal exam was stable 
and much improved. He was discharged home to finish a course of 
antibiotics and follow up with the gastroenterology team.

 
Medications on Admission:
___:  
 Viagra 100 prn, ASA 81', HCTZ 12.5', hydrocortisone 2.5 %  
 topical cream, ketoconazole 2 % shampoo wash scalp and face 
___  
 per week wait 5 minutes before rinsing, mupirocin 2 % topical  
 ointment apply to wounds daily until healed, rosuvastatin 40',  

 sulfacetamide sodium-sulfur 10 %-4 % topical pads apply to face 
 
 twice daily  

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*10 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0 
Should restart HCTZ 12.5mg

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
post-polypectomy syndrome 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain after 
colonoscopy and polypectomy. You will continue to take 5 days of 
antibiotics to prevent any further infection. You will take the 
antibiotics Cipro and Flagyl. You have tolerated a regular diet. 
You may return home to finish your recovery. While you are 
recovering and taking antibiotics, you should eat a yogurt every 
day or take a probiotic. You should continue this for a week 
after finishing the antibiotics. 
 
If you have any of the following symptoms please call the office 
for advice or go to the emergency room if severe: increasing 
abdominal distension, increasing abdominal pain, nausea, 
vomiting, inability to tolerate food or liquids, prolonged loose 
stool, or extended constipation.  
 
 Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.  
 Good luck!  

 
Followup Instructions:
___